US08138208B2
4-Fluoro-3-methyl-phenylamine (10 g, 79.9 mmol) was mixed with trifluoroacetic acid (100 mL) in a 250 mL flask. After the mixture was cooled to 0° C., concentrated hydrochloric acid (10 mL) was added slowly, followed by addition of a solution of sodium nitrite (6.95 g, 100.67 mmol) in water (5 mL) dropwise over 20 minutes at 0° C. The mixture was stirred for another 10 minutes, and then poured into a stirred mixture of acetic acid (120 mL), sulfurous acid (0.94 N aqueous sulfur dioxide solution, 120 mL), copper(II) chloride (13.6 g, 79.9 mmol) and copper(I) chloride (100 mg) at 0° C. The resulting mixture was allowed to warm to room temperature and stirred for 15 hours, and then poured into water (200 mL). The aqueous layer was extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography (20% ethyl acetate in petroleum ether) to afford 4-fluoro-3-methyl-benzenesulfonyl chloride (5.2 g, 31.2%) (reference: Cherney, R. J. et al., J. Med. Chem. 46 (2003) 1811). 1H NMR (400 MHz, CDCl3) δ ppm 7.96-7.90 (m, 2 H), 7.284-7.229 (m, 1 H), 2.42 (d, J=1.6 Hz, 3 H).

reactant | 4-Fluoro-3-methyl-phenylamine | 79.9 mmol, 10 g | FC1=C(C=C(C=C1)N)C | C7H8FN
reactant | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | sodium nitrite | 100.67 mmol, 6.95 g | N(=O)[O-].[Na+]
reactant | sulfurous acid | 0.94 N, 120 mL | S(O)(O)=O | H2O3S
solvent | water | 5 mL | O | H2O
catalyst | copper(II) chloride | 79.9 mmol, 13.6 g | [Cu](Cl)Cl
catalyst | copper(I) chloride | 100 mg | [Cu]Cl
solvent | water | 200 mL | O | H2O
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
product | 4-fluoro-3-methyl-benzenesulfonyl chloride | 5.2 g, 31.2% | FC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6ClFO2S
